US07968587B2
Step 4: (S)-2-Amino-4-pyridin-2-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile hydrochloride
Equip a 3 L 3-necked round bottom flask with a heating mantle, air stirrer, temperature probe, nitrogen inlet, and addition funnel Charge the flask with (S)-(7-cyano-4-pyridin-2-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid tert-butyl ester (85.0 g, 0.22 moles), and EtOH (850 mL). Add concentrated HCl (180 mL, 2.20 moles) in one portion. Heat the resulting solution to 45-50° C. and stir for 90 min, after which analyze by HPLC to indicate complete consumption of starting material. Transfer the mixture to a Buchi flask, dilute with deionized water (595 mL), and concentrate in vacuo to remove EtOH. Add EtOAc in two portions (2×170 mL) and re-strip to remove both the EtOAc and residual EtOH. Transfer the aqueous concentrate to a 5 L reaction flask, and cool to 10-15° C. While maintaining the temperature of the reaction at <30° C., adjust the pH of the solution to 11-12 by the drop-wise addition of 5 M NaOH (950 mL). Extract the resulting mixture with CH2Cl2 (1300 mL, 800 mL). Wash the combined CH2Cl2 extracts with deionized water (500 mL), dry over Na2SO4, and concentrate in vacuo to afford titled compound as a light green solid (65.0 g, 103%).

reactant | (S)-(7-cyano-4-pyridin-2-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid tert-butyl ester | 0.22 moles, 85.0 g | C(C)(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NC=CC=C2)C1)=O | C23H24N4O2
reactant | HCl | 2.20 moles, 180 mL | Cl | ClH
reactant | NaOH | 5 M, 950 mL | [OH-].[Na+]
solvent | EtOH | 850 mL | CCO | C2H6O
product | (S)-2-Amino-4-pyridin-2-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile hydrochloride | 65.0 g, 103% | Cl.N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NC=CC=C2)C1 | InChI=1S/C18H16N4.ClH/c19-10-12-4-5-17-15(7-12)16-8-13(20)9-18(16)22(17)11-14-3-1-2-6-21-14;/h1-7,13H,8-9,11,20H2;1H/t13-;/m0./s1
